US05663336
4,5-Bis(2-iodoanilino)phthalimide
Analogously to Example 1, 1.48 g (2.36 mmol) of 4,5bis(2-iodoanilino)phthalic acid dimethyl ester in 25 ml of ethylene glycol are heated at 120° and, with stirring, ammonia gas is passed through the mixture for 19 hours. The reaction mixture is cooled, diluted with brine and extracted with ethyl acetate. The ethyl acetate phases are washed in succession three times with water and once with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation. The residue obtained after concentration by evaporation is filtered through silica gel with dichloromethane and the product fractions are combined and concentrated by evaporation. The residue obtained after concentration by evaporation is crystallized from boiling dichloromethane, yielding the title compound in the form of yellow crystals, m.p. 108°-110° C., FAB-MS: 582 [M+ +H].

reactant | 4,5bis(2-iodoanilino)phthalic acid dimethyl ester | 2.36 mmol, 1.48 g | COC(C=1C(C(=O)OC)=CC(=C(C1)NC1=C(C=CC=C1)I)NC1=C(C=CC=C1)I)=O | C22H18I2N2O4
reactant | ammonia | N | H3N
solvent | ethylene glycol | 25 ml | C(CO)O | C2H6O2
solvent | brine | [Cl-].[Na+].O
product | 4,5-Bis(2-iodoanilino)phthalimide | IC1=C(NC=2C=C3C(C(=O)NC3=O)=CC2NC2=C(C=CC=C2)I)C=CC=C1 | C20H13I2N3O2
